### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat/Basic): drop `[Small.{v} R]` assumption in `Module.Flat.iff_*` lemmas

### PR DESCRIPTION
**Pull request by mbkybky**
Drop `[Small.{v} R]` assumption from `Module.Flat.iff_*` lemmas [Module.Flat.iff_rTensor_preserves_injective_linearMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Flat/Basic.html#Module.Flat.iff_rTensor_preserves_injective_linearMap), [Module.Flat.iff_lTensor_exact](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Flat/Basic.html#Module.Flat.iff_lTensor_exact), and so on.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mbkybky** [comment]
!bench

**Comment by kbuzzard** [comment]
!bench

File: Mathlib/RingTheory/Flat/Basic.lean [hunk 1]
```diff
@@ -55,7 +49,7 @@ when the module lives in a lower universe.
 -/
 
 
-universe u v w
+universe v' u v w
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Flat/Basic.lean:52]: maybe `universe u v v' w` makes more sense

File: Mathlib/RingTheory/Flat/Basic.lean [hunk 2]
```diff
@@ -144,6 +138,11 @@ lemma of_linearEquiv [f : Flat R M] (e : N ≃ₗ[R] M) : Flat R N := by
   have h : e.symm.toLinearMap.comp e.toLinearMap = LinearMap.id := by simp
   exact of_retract _ _ _ e.toLinearMap e.symm.toLinearMap h
 
+/-- If an `R`-module `M` is linearly equivalent to another `R`-module `N`, then `M` is flat
+  if and only if `N` is flat. -/
+lemma iff_linearEquiv (e : M ≃ₗ[R] N) : Flat R M ↔ Flat R N :=
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Flat/Basic.lean:143]: a more canonical naming is perhaps `Module.Flat.congr`

File: Mathlib/RingTheory/Flat/Basic.lean [hunk 3]
```diff
@@ -300,35 +317,27 @@ lemma rTensor_exact [Small.{v} R] [flat : Flat R M] ⦃N N' N'' : Type v⦄
...
   simpa [Eq.comm] using @H PUnit N' N'' _ _ _ _ _ _ 0 L (fun x => by aesop) x |>.mp hx
 
-/--
-M is flat if and only if `- ⊗ M` is a left exact functor.
--/
-lemma iff_rTensor_exact [Small.{v} R] :
-    Flat R M ↔
-    ∀ ⦃N N' N'' : Type v⦄ [AddCommGroup N] [AddCommGroup N'] [AddCommGroup N'']
+/-- M is flat if and only if `- ⊗ M` is a left exact functor. -/
+theorem iff_rTensor_exact [Small.{v'} R] [Small.{v'} M] : Flat R M ↔
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Flat/Basic.lean:339]: Is it possible to drop the `[Small.{v'} R]` and `[Small.{v'} M]` by changing `N N' N'' : Type max u v`

**Review by jjaassoonn — APPROVED** [review]

File: Mathlib/RingTheory/Flat/Basic.lean (hunk 1 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Flat/Basic.lean:52]: I put `v'` at the first since I want it to be the first universe specified in the theorem. This might make it easier to use, similar to `[Small.{v} R]`. Is there a better way to do this?

Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/Basic.lean:52]: This makes sense!

**Comment by kbuzzard** [comment]
!bench

**Comment by mbkybky** [comment]
Should we swap the theorem names of `iff_rTensor_exact` and `iff_rTensor_exact'`? Although now `iff_rTensor_exact` is more general, `iff_rTensor_exact'` is likely to be more practical.

**Comment by jjaassoonn** [comment]
> Should we swap the theorem names of `iff_rTensor_exact` and `iff_rTensor_exact'`? Although `iff_rTensor_exact` (the `[Small.{v'} R]` version) is more general, `iff_rTensor_exact'` (the `Type (max u v)` version) is likely to be more practical.

I think I like `iff_rTensor_exact` (unprimed version) to be the version without universe levels, but others might disagree

**Comment by mbkybky** [comment]
> > Should we swap the theorem names of `iff_rTensor_exact` and `iff_rTensor_exact'`? Although `iff_rTensor_exact` (the `[Small.{v'} R]` version) is more general, `iff_rTensor_exact'` (the `Type (max u v)` version) is likely to be more practical.
> 
> I think I like `iff_rTensor_exact` (unprimed version) to be the version without universe levels, but others might disagree

I'm a little confused about what you mean by “without universe levels”. Do you mean the `N N' N'' : Type` version?

**Comment by jjaassoonn** [comment]
> > > Should we swap the theorem names of `iff_rTensor_exact` and `iff_rTensor_exact'`? Although `iff_rTensor_exact` (the `[Small.{v'} R]` version) is more general, `iff_rTensor_exact'` (the `Type (max u v)` version) is likely to be more practical.
> > 
> > 
> > I think I like `iff_rTensor_exact` (unprimed version) to be the version without universe levels, but others might disagree
> 
> I'm a little confused about what you mean by “without universe levels”. Do you mean the `N N' N'' : Type` version?

Sorry my bad, i meant that the unprimed version to be the one without the `Small` assumptions.

**Comment by mbkybky** [comment]
!bench

File: Mathlib/RingTheory/Flat/Basic.lean [hunk 4]
```diff
@@ -144,6 +143,11 @@ lemma of_linearEquiv [f : Flat R M] (e : N ≃ₗ[R] M) : Flat R N := by
   have h : e.symm.toLinearMap.comp e.toLinearMap = LinearMap.id := by simp
   exact of_retract _ _ _ e.toLinearMap e.symm.toLinearMap h
 
+/-- If an `R`-module `M` is linearly equivalent to another `R`-module `N`, then `M` is flat
+  if and only if `N` is flat. -/
+protected lemma congr (e : M ≃ₗ[R] N) : Flat R M ↔ Flat R N :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/Basic.lean:148]: Can you check if similar theorems have this name?

**Review by riccardobrasca — APPROVED** [review]

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/RingTheory/Flat/Basic.lean (hunk 4 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Flat/Basic.lean:148]: I have found theorems [Module.Finite.equiv_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness.html#Module.Finite.equiv_iff) and [Algebra.FiniteType.equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/FiniteType.html#Algebra.FiniteType.equiv), so maybe this lemma should be called `Module.Flat.equiv_iff`?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/Basic.lean:148]: I agree.

**Comment by mbkybky** [comment]
!bench

**Comment by mbkybky** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
